US05780465
B. 5-(Chloro(2-fluorophenyl)methyl)-4-methylthiopyrimidine
To a slurry of 9.5 g (38 mmol) of (2-fluorophenyl) (4-methylthio-5-pyrimidinyl)methanol in 50 mL of dichloromethane was added slowly with stirring 10 g (84 mmol) of thionyl chloride. The resulting solution was stirred 1 hr. and then was concentrated by evaporation under reduced pressure. The resulting amber oil was diluted with 5 mL of dichloromethane and then 100 mL of hexane. The light tan solid that formed was collected by filtration and dried under reduced pressure to obtain 10.1 g (99 percent of theory) of the title compound in crude form melting at 144°-145° C.

reactant | (2-fluorophenyl) (4-methylthio-5-pyrimidinyl)methanol | 38 mmol, 9.5 g | FC1=C(C=CC=C1)C(O)C=1C(=NC=NC1)SC | C12H11FN2OS
reactant | thionyl chloride | 84 mmol, 10 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-(Chloro(2-fluorophenyl)methyl)-4-methylthiopyrimidine | ClC(C=1C(=NC=NC1)SC)C1=C(C=CC=C1)F | C12H10ClFN2S
